US05082854
2,6-bis(1,1-dimethylethyl)-4-[(3-hydroxy-4-methylpentyl)thio]phenol
3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio] propanol (2.0 g, prepared as described in U.S. Pat. No. 4,857,558) was dissolved in 20 ml of dry tetrahydrofuran under argon and added to 8.5 ml of 2M isopropylmagnesium chloride in tetrahydrofuran that had previously been added under argon gas to a flask that had been dried in vacuo overnight. Reaction temperature was maintained at 10°-15° C. with an ice bath. When addition was complete, the reaction mixture was allowed warm to room temperature and stirred for 3 hours. 2N hydrochloric acid (2 ml) was added followed by 50 ml of water and the mixture extracted with ethyl acetate three times. The organic extracts were combined, washed with water twice and dried over sodium sulfate. The solvent was removed in vacuo after filtration and the crude product chromatographed on silica to give the title compound.

reactant | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio] propanol | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCCO | C17H28O2S
reactant | isopropylmagnesium chloride | 2M, 8.5 ml | C(C)(C)[Mg]Cl
reactant | hydrochloric acid | 2N, 2 ml | Cl | ClH
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2,6-bis(1,1-dimethylethyl)-4-[(3-hydroxy-4-methylpentyl)thio]phenol | CC(C)(C)C1=C(C(=CC(=C1)SCCC(C(C)C)O)C(C)(C)C)O | C20H34O2S
